US07576108B2
a: (E)-5,5-Dimethyl-2-(4-methylsulfanyl-phenyl)-hex-2-enoic acid ethyl ester
Add sodium bistrimethylsilylamide(4.67 mL, 2.0 M in THF, 9.35 mmol) to a solution of (3,3-Dimethyl-butyl) phosphonium bromide (4.00 g, 9.35 mmol)in CH2Cl2/THF at 0° C. Dissolve (4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (prepared as described by I. T. Barnish et. al. J. Med. Chem. 1981, 24, 399-404) in THF and add the resulting solution to the reaction mixture at 78° C. Stir at room temperature over-night. Add water and extract 3 X with dichloromethane, dry over sodium sulfate and concentrate under vacuum to afford 2.79 g raw material as a yellow oil. Further purify this material via silica gel chromatography, eluting with a gradient from 100% hexane to 50:50 hexane:dichlormethan to afford a colorless oil (700 mg). MS (m/e): 293 (M+H).

reactant | sodium bistrimethylsilylamide | 9.35 mmol, 2.0 M, 4.67 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (3,3-Dimethyl-butyl) phosphonium bromide | 9.35 mmol, 4.00 g | [Br-].CC(CC[PH3+])(C)C
reactant | (4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | C(C)OC(C(=O)C1=CC=C(C=C1)SC)=O | C11H12O3S
solvent | CH2Cl2 THF | C(Cl)Cl.C1CCOC1
solvent | THF | C1CCOC1 | C4H8O
product | (E)-5,5-Dimethyl-2-(4-methylsulfanyl-phenyl)-hex-2-enoic acid ethyl ester | 700 mg | C(C)OC(\C(=C\CC(C)(C)C)\C1=CC=C(C=C1)SC)=O | C17H24O2S
